US05700938
Synthesis of 2-cyclopropanecarboxamido-4-methyl-3-nitropyridine
Toluene (60 ml) was added to 3.0 g (10.0 mmol) of 5-bromo-2-cyclopropanecarboxamido-4-methyl-3-nitropyridine, 10% Pd--C (100 mg) and 2.9 g (28.6 mmol) of triethylamine, followed by stirring and heating under reflux. 1.9 g (41.3 mmol) of formic acid was dropwise added to this solution, followed by stirring for 5 hours. The reaction liquid was brought to room temperature and filtered to remove the catalyst. The filtrate was subjected to vacuum concentration. Chloroform (100 ml) and water (100 ml) were added to the residue and the obtained mixture was caused liquid-liquid separation. The aqueous phase was further extracted with chloroform (50 ml) once. The organic phases were combined, dried over anhydrous magnesium sulfate and subjected to vacuum concentration. The residue was purified by silica gel column chromatography: (a n-hexane/ethyl acetate system) to give 1.6 g of the title compound (yield 72%).

reactant | Toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
reactant | 5-bromo-2-cyclopropanecarboxamido-4-methyl-3-nitropyridine | 10.0 mmol, 3.0 g | BrC=1C(=C(C(=NC1)NC(=O)C1CC1)[N+](=O)[O-])C | C10H10BrN3O3
reactant | triethylamine | 28.6 mmol, 2.9 g | C(C)N(CC)CC | C6H15N
reactant | formic acid | 41.3 mmol, 1.9 g | C(=O)O | CH2O2
solvent | n-hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 2-cyclopropanecarboxamido-4-methyl-3-nitropyridine | 1.6 g, yield 72% | C1(CC1)C(=O)NC1=NC=CC(=C1[N+](=O)[O-])C | C10H11N3O3
